US07071182B2
5-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole
A mixture of 5-nitroindazole (4.0 g, 24 mmol) and potassium carbonate (10 g 74 mmol) in DMF (60 mL) was stirred for 30 minutes after which 1-(2-chloro-ethyl)-piperidine hydrochloride (6.8 g 37 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound (4.3 g, 64% yield). 1H NMR (300 MHz, DMSO-d6) ppm 1.34 (m, 6H), 2.36 (m, 4H), 2.72 (t, J=6.44, 2H), 4.58 (t, J=6.44, 2H), 7.90 (m, 1H), 8.21 (m, 1H), 8.40 (m, 1H), 8.82 (m, 1H); MS (DCI/NH3) m/z 275 [M+H]+.

reactant | 5-nitroindazole | 24 mmol, 4.0 g | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | potassium carbonate | 74 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-piperidine hydrochloride | 37 mmol, 6.8 g | Cl.ClCCN1CCCCC1
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole | 4.3 g, 64% yield | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CCN1CCCCC1 | C14H18N4O2
